US07932271B2
2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-1-(4-methoxyphenyl)-1H-imidazole
Trifluoroacetic acid (10 ml) was added to the 2-[(t-butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-(4-methoxyphenyl)-1H-imidazole (667 mg, 1.6 mmol) obtained in Referential Example 16. The resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure. Dioxane was added to the residue, followed by further concentration under reduced pressure. The residue was dissolved in thionyl chloride (2.0 ml) and to the resulting solution was added a drop of dimethylformamide. The resulting mixture was stirred at room temperature for 17 hours. The reaction mixture was concentrated under reduced pressure. To the residue was added dioxane, followed by further concentration under reduced pressure. The residue was dissolved in dimethylformamide (5.0 ml). To the resulting solution were added 4-chlorobenzenethiol (347 mg, 2.4 mmol) and potassium carbonate (1.32 g, 9.6 mmol). The resulting mixture was stirred at 50° C. for 2 hours. After the reaction mixture was allowed to stand until it became room temperature, ethyl ether (60 ml) was added thereto. The resulting mixture was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=10:1 to 5:1), followed by crystallization from ethanol to give the title compound (535 mg, 75%) as colorless needle crystals.

reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-[(t-butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-(4-methoxyphenyl)-1H-imidazole | 1.6 mmol, 667 mg | C(C)(C)(C)OC(=O)OC(C=1N(C=CN1)C1=CC=C(C=C1)OC)C1=C(C=CC(=C1)F)F | C22H22F2N2O4
reactant | 4-chlorobenzenethiol | 2.4 mmol, 347 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 9.6 mmol, 1.32 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl ether | 60 ml | C(C)OCC | C4H10O
product | 2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-1-(4-methoxyphenyl)-1H-imidazole | 535 mg, 75% | ClC1=CC=C(C=C1)SC(C=1N(C=CN1)C1=CC=C(C=C1)OC)C1=C(C=CC(=C1)F)F | C23H17ClF2N2OS
